US05130313
The operation is as in Example 3, starting with 1-(3-chloropropyl)-5,6-dihydro(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide (3.8 g), 4-(5-fluoro-3-indolyl)-1,2,3,6-tetrahydropyridine (2.9 g) and sodium bicarbonate (3.3 g) in a mixture of dimethylformamide (40 cc) and tetrahydrofuran (25 cc). The mixture is heated to boiling for 48 hours and is then cooled to a temperature close to 20° C. After purification by flash chromatography on a silica column, under a stream of argon at moderate pressure (0.5-1.5 bars) with ethyl acetate as eluent and recrystallization from boiling acetonitrile (200 cc), 1-[3-(4-(5-fluoro-3-indolyl)-1,2,3,6-tetrahydro-1-pyridyl)propyl]-5,6-dihydro(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide (2.5 g) is obtained, melting at 178° C.

reactant | 1-(3-chloropropyl)-5,6-dihydro(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide | 3.8 g | ClCCCN1S(N2CCCC3=CC=CC1=C23)(=O)=O | C12H15ClN2O2S
reactant | 4-(5-fluoro-3-indolyl)-1,2,3,6-tetrahydropyridine | 2.9 g | FC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13FN2
reactant | sodium bicarbonate | 3.3 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 40 cc | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 25 cc | O1CCCC1 | C4H8O
product | 1-[3-(4-(5-fluoro-3-indolyl)-1,2,3,6-tetrahydro-1-pyridyl)propyl]-5,6-dihydro(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide | 2.5 g | FC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)CCCN1S(N2CCCC3=CC=CC1=C23)(=O)=O | C25H27FN4O2S
